Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:7]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C@@:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.50898536829
[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[O:8][C:9][H:10]>>[C:2]([H:3])#[C:4][C:5]([H:6])([H:7])[O:8][C:9][H:10].[O:1],2.29716819246
[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[O:8][H:9]>>[C:2]([H:3])#[C:4][C:5]([H:6])([H:7])[O:8][H:9].[O:1],2.74131595535
[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])=[C:9]([H:10])[H:11])=[C:13]([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])[C:9]([H:10])([H:11])[H:12])=[C:13]([H:14])[H:15],-2.33545648842
[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[C:4][O:5][C:6]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:7],3.78447066998
[H:1][C:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:5]([H:6])[H:7].[H:1][C:2][O:3][C:4][C:8]([H:9])([H:10])[H:11],8.203414413119999
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]#[C:12][H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@:9]1([H:10])[C:11][C:12]1[H:13],1.66761387802
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:17].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[C:14]([H:15])[H:16],4.62654545274
[C:7]([H:8])=[C:9]([H:10])[H:11].[O:1][O:2][C:3][C:4]([H:5])[H:6]>>[O:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-4.58136216614
[O:1]=[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12]>>[H:12].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11],1.84068070621
[O:1]=[C:2]([H:3])[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:5]([H:6])([H:7])[H:8].[O:1]=[C:2]([H:3])[C:4][C:9]([H:10])([H:11])[O:12][H:13],4.5865356120300005
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11][H:12]>>[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11][H:12],1.22453430995
[H:1][C:2]([H:3])([H:4])[O:5]/[C:6]=[C:7]1\[O:8][C:9]1([H:10])[H:11]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]#[C:7][C:9]([O:8])([H:10])[H:11],-0.00259083357923
[H:1].[O:2][O:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-3.85644531716
[H:1][O:2]/[C:3](=[C:4](/[O:5][H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3](=[C:4]\[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[O:5][H:6],5.77411288487
[C:1]#[C:2][O:3][C:4][O:7][H:8].[C:5][H:6]>>[C:1]#[C:2][O:3][C:4](=[C:5][H:6])[O:7][H:8],-6.31759583622
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])=[C:8]=[O:9]>>[C:1].[C:2]([H:3])([H:4])[O:5][C:6]([H:7])=[C:8]=[O:9],3.54460772255
[O:1][C:2](=[O:3])[C:4]#[C:5][C:6]([H:7])([H:8])[H:9]>>[C:4]#[C:5][C:6]([H:7])([H:8])[H:9].[O:1]=[C:2]=[O:3],0.97891216015
[C:7]([H:8])#[C:9][C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13],-1.09160421573
[H:13].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13],-1.93279625346
[H:1][C:2]([H:3])=[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[H:12],4.12331187427
[C:8][H:9].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[H:7]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][H:9],-5.20594992273
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[C:8]([H:9])#[C:10][H:11].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])[H:7],0.929406459939
[H:1][C:2]#[C:3][C@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-1.83995111718
[C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10],-0.615873473918
[C:2]([H:3])([O:4][H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11].[O:1]>>[O:1][C@:2]([H:3])([O:4][H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11],-4.23216264049
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[C:6]([H:7])([H:8])=[C:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][O:4][H:5],-0.723738133909
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])[H:18]>>[C:10]([H:11])[H:12].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:13]([H:14])([H:15])[C:16]([H:17])[H:18],5.22014677
